US07763648B2
Step J. 3a-Methyl-5,6-epoxy-6-[2-(2-methyl-[1,3]dioxolan-2-yl)-ethyl]-1,2,4,5,9a,9b-hexahydro-3aH-9-oxa-cyclopenta[a]naphthalene-3,7-dione
A solution of 70% meta-perobenzoic acid (939 mg, 3.8 mmol) in dichloromethane (20 mL) was added dropwise to a suspension of 3a-methyl-6-[2-(2-methyl-[1,3]dioxolan-2-yl)-ethyl]-1,2,4,5,9a,9b-hexahydro-3aH-9-oxa-cyclopenta[a]naphthalene-3,7-dione (800 mg, 2.53 mmol) and sodium bicarbonate (213 mg, 3.8 mmol) in dichloromethane (51 mL) at −30° C. The resulting mixture was stirred at −30° C. for 16 h. The reaction was then quenched with saturated solution of sodium thiosulfate. The resulting mixture was treated with saturated sodium carbonate solution and then extracted with dichloromethane (2×50 mL). The combined organic layer was dried with magnesium sulfate. The resulting solution was filtered and concentrated to yield the title compound as a white foam.

reactant | 3a-methyl-6-[2-(2-methyl-[1,3]dioxolan-2-yl)-ethyl]-1,2,4,5,9a,9b-hexahydro-3aH-9-oxa-cyclopenta[a]naphthalene-3,7-dione | 2.53 mmol, 800 mg | CC12C(C3OCC(C(=C3CC1)CCC1(OCCO1)C)=O)CCC2=O | C19H26O5
reactant | sodium bicarbonate | 3.8 mmol, 213 mg | C([O-])(O)=O.[Na+]
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 51 mL | ClCCl | CH2Cl2
product | 3a-Methyl-5,6-epoxy-6-[2-(2-methyl-[1,3]dioxolan-2-yl)-ethyl]-1,2,4,5,9a,9b-hexahydro-3aH-9-oxa-cyclopenta[a]naphthalene-3,7-dione | CC12C(C3OCC(C4(C3C(C1)O4)CCC4(OCCO4)C)=O)CCC2=O | C19H26O6
